US03997572
A mixture of 15.0 parts of 1-(2-hydroxyethyl)-2-methyl-5-nitroimidazole tosylate and 7.5 parts of 2,4(1H,-3H)-quinazolinedione is dissolved in 190 parts of warm dimethylformamide. 2.9 Parts of potassium hydroxide is dissolved in 80 parts of methanol and diluted with about 95 parts of dimethylformamide. The methanol is removed under reduced pressure, the residual solution added to the quinazolinedione solution, and the resulting mixture heated on a steam bath for 4 hours. The crude solution is cooled, filtered, and diluted with 100 parts of water. The precipitate which forms is separated by filtration and the solvent is evaporated from the filtrate to leave a residue which is stirred with 630 parts of toluene and filtered. The solvent is evaporated from the filtrate to leave a yellow residue. This is dissolved in toluene and dimethylformamide and then concentrated. A precipitate forms and it is separated by filtration to give 3-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-2,4-(1H,3H)quinazolinedione melting at about 261°-264° C.

reactant | 1-(2-hydroxyethyl)-2-methyl-5-nitroimidazole tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.OCCN1C(=NC=C1[N+](=O)[O-])C
reactant | 2,4(1H,-3H)-quinazolinedione | N1C(NC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-2,4-(1H,3H)quinazolinedione | CC=1N(C(=CN1)[N+](=O)[O-])CCN1C(NC2=CC=CC=C2C1=O)=O | C14H13N5O4
